* D:\GITHUB\EE313-Term-project\Simulation\Display Unit\Display Unit.asc
V1 Vin 0 SINE(3 3 10)
XU1 Vblue N007 12V 0 N002 LM741/NS
V2 12V 0 12V
D1 12V N001 D
R1 N007 0 266
R2 N001 N005 530
V3 -12V 0 -12V
V4 5V 0 5V
XU3 N006 N004 12V -12V Vblue LM741/NS
R10 N006 0 100k
R13 Vblue N004 100k
R14 N003 N004 50k
R11 N003 5V 600
R12 0 N003 400
R3 N006 Vin 50k
XU2 N010 N009 12V -12V Vblue LM741/NS
R4 N010 0 100k
R5 Vblue N009 100k
R6 N008 N009 50k
R7 N008 5V 600
R8 0 N008 400
R9 N010 Vin 50k
M1 N005 N002 N007 N007 IRFZ44N
.model D D
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\erdem\Documents\LTspiceXVII\lib\cmp\standard.mos
.include D:\GITHUB\EE313-Term-project\Simulation\Display Unit\LM741.MOD
.tran 0 1 0
* in the range of 0-5V\nVin(C) = 0.25 *(C-24)\nVin(24C)=0V, Vin(40C)=4V
.backanno
.end
